US07528143B2
2-(5-Amino-pyridin-2-yloxy)-ethanol (Intermediate 56)
To a solution of 2-(5-nitro-pyridin-2-yloxy)-ethanol (1.0 g, 5.4 mmol) in MeOH (30 mL) was added 10 wt % Pd/C (0.1 equiv by wt) under argon atmosphere. The mixture was evacuated and then refilled with hydrogen (3 cycles) and stirred at room temperature for 1 h. The heterogeneous reaction mixture was filtered through a pad of Celite, washed with MeOH and concentrated in vacuo. The crude amino-compound was used in the next step without purification. MS (ES+): m/z 155 (M+H)+.

reactant | 2-(5-nitro-pyridin-2-yloxy)-ethanol | 5.4 mmol, 1.0 g | [N+](=O)([O-])C=1C=CC(=NC1)OCCO | C7H8N2O4
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 0.1 equiv | [Pd] | Pd
product | 2-(5-Amino-pyridin-2-yloxy)-ethanol | NC=1C=CC(=NC1)OCCO | C7H10N2O2
